2131-06-15 06:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2131-6-14**] 08:00 AM
   Peripheral
   Patient transferred to our service after multiple surgeries, long
   hospital course with many complications now on our service for further
   medical management.
   Allergies:
   Aspirin
   Unknown;
   Codeine
   Unknown;
   Erythromycin Base
   Unknown;
   Penicillins
   Unknown;
   Influenza Virus Vaccine
   Unknown;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2131-6-13**] 08:00 PM
   Cefipime - [**2131-6-15**] 04:10 AM
   Metronidazole - [**2131-6-15**] 04:10 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2131-6-14**] 03:30 PM
   Famotidine (Pepcid) - [**2131-6-14**] 08:30 PM
   Heparin Sodium (Prophylaxis) - [**2131-6-14**] 09:00 PM
   Hydromorphone (Dilaudid) - [**2131-6-15**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-6-15**] 05:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.2
C (99
   HR: 122 (73 - 128) bpm
   BP: 127/64(73) {89/41(54) - 166/91(95)} mmHg
   RR: 33 (15 - 48) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 75 kg (admission): 71 kg
   Height: 64 Inch
             Total In:
                                                                  1,607 mL
                                                                    497 mL
   PO:
             TF:
                                                                    721 mL
                                                                    238 mL
   IVF:
                                                                    797 mL
                                                                    109 mL
   Blood products:
   Total out:
                                                                  3,040 mL
                                                                    630 mL
   Urine:
                                                                  2,640 mL
                                                                    580 mL
   NG:
   Stool:
                                                                    400 mL
                                                                     50 mL
   Drains:
   Balance:
                                                                 -1,433 mL
                                                                   -133 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 300 (291 - 480) mL
   PS : 10 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 80
   PIP: 17 cmH2O
   SpO2: 97%
   ABG: ///34/
   Ve: 7.1 L/min
   Physical Examination
   General: trached, minimally arousable to verbal stimuli and sternal rub
   Skin: scattered ecchymoses, no rash, left thoracotomy w/ staples, small
   yellow wound at incisional end overlying L-spine w/ scant yellow
   discharge
   HEENT: Sclera anicteric, pupils 2mm and sluggish, MMD, poor dentition
   w/ gingival inflammation, oropharynx clear
   Neck: supple, JVP unable to assess [**2-12**] trach collar, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: Tachy, Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
   gallops
   Abdomen: obese, LLQ ostomy w/ brown liquid stool, mild line incisional
   scar healed, soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly appreciated
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema,
   PICC line in R antecub
   Labs / Radiology
   533 K/uL
   8.4 g/dL
   281 mg/dL
   0.6 mg/dL
   34 mEq/L
   3.6 mEq/L
   18 mg/dL
   103 mEq/L
   142 mEq/L
   26.5 %
   8.2 K/uL
        [image002.jpg]
                             [**2131-6-9**]  03:10 AM
                             [**2131-6-10**]  02:23 AM
                             [**2131-6-10**]  09:41 AM
                             [**2131-6-11**]  02:21 AM
                             [**2131-6-12**]  03:16 AM
                             [**2131-6-12**]  03:59 AM
                             [**2131-6-12**]  10:00 AM
                             [**2131-6-13**]  02:29 AM
                             [**2131-6-14**]  03:44 AM
                             [**2131-6-15**]  03:49 AM
   WBC
   11.7
   8.8
   8.1
   12.1
   8.9
   9.7
   8.2
   Hct
   27.8
   25.9
   24.2
   25.7
   23.1
   25.4
   26.5
   Plt
   537
   513
   463
   488
   459
   500
   533
   Cr
   0.5
   0.6
   0.6
   0.5
   0.6
   0.6
   0.6
   TCO2
   44
   43
   Glucose
   180
   185
   177
   157
   [**Telephone/Fax (2) 7993**]81
   Other labs: PT / PTT / INR:14.5/24.7/1.3, CK / CKMB /
   Troponin-T:229/2/0.03, ALT / AST:[**5-23**], Alk Phos / T Bili:168/0.1,
   Differential-Neuts:78.7 %, Lymph:11.6 %, Mono:7.1 %, Eos:2.2 %,
   Fibrinogen:387 mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.6 g/dL, LDH:180
   IU/L, Ca++:10.1 mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   50y F w/ COPD, DMII, IgG/IgA deficiency, MRSA epidural abscess s/p
   thoracic spinal fusion POD 35 c/b multiple complications and infections
   requiring re-operation, c. diff colitis, VAP (pseudomonal) and
   persistent hypercarbic respiratory failure transferred from the SICU to
   the MICU for further management.
   .
   # Hypercarbic Respiratory Failure: Pseudomonal VAP vs. COPD vs.
   ventilatory muscle weakness/critical illness myopathy vs. oversedation.
   In discussion with nursing and RT, patient has been difficult to
   liberate from vent [**2-12**] low tidal volumes, especially in setting of
   narcotics. Small b/l pleural effusions not likely to be playing big
   role and unlikely to be corrected until albumin improves.
   - Continue slow ventilatory wean, trial of [**5-15**] when sedation minimized
   - Decrease sedating meds, consider transition to methadone, plan to
   discuss with pain service today
   - Continue slow 5mg q3d steroid taper nebs for COPD (came in on
   prednisone 25mg, currently on prednisone 15mg)
   - Complete course of cefepime for VAP
   - Consider EMG to r/o myopathy (contact [**Name (NI) **] [**Name (NI) 1621**])
   .
   # Persistent Fevers: possible etiologies include unresolved VAP, fungal
   UTI, persistent abscess in the spine/paraspinal space, pleural
   effusions/atelectasis, drugs, dental abscess. MS [**First Name (Titles) **] [**Last Name (Titles) **] to be
   med-induced although CNS infectious process possible. Has been on
   appropriate rx for VAP and [**Name8 (MD) **] RN/RT minimal secretions.
   - Will d/w Neurorads best study (CT v. MRI) to assess spine given
   clinical status
   - Obtain panorex to r/o dental abscess given poor dentition; consider
   maxillofacial c/s as needed
   - Holding off on IR-guided LP for now pending spine imaging and EEG per
   ID recs as clinical status likely worse if had untreated meningitis for
   so long
   - Empirically treating urine w/ fluconazole
   - Continue cefepime, vanc (follow troughs), rifampin, flagyl
   - Minimize unnecessary meds. Hydralazine discontinued previously. Taper
   clonidine and steroids.  Switch famotidine to PPI.
   - Consider removing PICC although surveillance cx NGTD; f/u pending bcx
   - F/u ID recs
   .
   #  MRSA epidural abcess s/p thoracic spinal fusion and multiple
   surgical revisions for recurrent infection: Given persistent fevers and
   no clear source with negative blood cultures, urine only showing yeast,
   would benefit from further imaging of spine given persistent drainage
   from wound.
   - IV vanc/rifampin for MRSA osteo until [**7-5**]
   - Obtain repeat CT of spine to assess for abscess
   .
   #  VAP: Cefepime-sensitive Pseudomonas.
   - Continue cefepime for total 14 day course, day #1 [**6-5**]
   .
   # Sinus Tachycardia: Persistently tachycardic. TSH nl. EKG this AM
   Likely [**2-12**] agitation, anxiety, pain.
   - Continue tele
   - D/c nodal agents and treat underlying cause
   .
   # C.diff colitis: Stool output normal.
   - Continue flagyl until vancomycin course completed
   .
   # DMII: Has been on regular sliding scale w/ TF with moderate control
   in 200s.
   - Titrate RISS prn with down-titration of prednisone
   .
   #  Agitation/Anxiety: Has been on ativan, zyprexa, this admission.
   Evaluated by psych/neuro, recommended EEG in setting of extremity
   tremors/"twitches."
   - EEG per Neuro recs; will reconsult Neuro after.
   - Taper off clonidine (started for unclear reasons); trial of low dose
   seroquel. Off ativan.
   - Appreciate psych input; f/u recs.
   ICU Care
   Nutrition: No IVF, replete lytes prn, f/u nutrition recs
   Nutren Pulmonary (Full) - [**2131-6-15**] 01:20 AM 40 mL/hour
   Glycemic Control:  RISS
   Lines:
   PICC Line - [**2131-6-2**] 10:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin, IVC filter
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments: HCPs are mother and sister [**Name8 (MD) **] RN but unable
   to reach overnight as phone disconnected
   Code status: Full code
   Disposition: ICU, to vent rehab pending above
   ------ Protected Section ------
   Addendem: Also considering CT sinuses.
   ------ Protected Section Addendum Entered By:[**Name (NI) 586**] [**Last Name (NamePattern1) 7347**], MD
   on:[**2131-6-15**] 10:58 ------
   ATTENDING NOTE
   Please see my comments on Dr [**Last Name (STitle) 1942**]
s note dated [**2131-6-14**].
   ------ Protected Section Addendum Entered By:[**Name (NI) 457**] [**Last Name (NamePattern1) **], MD
   on:[**2131-6-15**] 19:03 ------

2131-06-16 06:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Seroquel held per Psych recs until after EEG as can suppress seizure
   - Neurontin taper started because can cause fever and tremor
   - EEG, CT sinus, Panorex and MRI T/L spine done
   - One port of PICC was blocked->TPA ordered with good effect
   Allergies:
   Aspirin
   Unknown;
   Codeine
   Unknown;
   Erythromycin Base
   Unknown;
   Penicillins
   Unknown;
   Influenza Virus Vaccine
   Unknown;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2131-6-15**] 12:00 PM
   Vancomycin - [**2131-6-15**] 02:00 PM
   Cefipime - [**2131-6-15**] 07:39 PM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2131-6-15**] 08:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-6-16**] 06:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 112 (82 - 143) bpm
   BP: 145/98(98) {92/45(56) - 173/98(107)} mmHg
   RR: 24 (20 - 43) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 75 kg (admission): 71 kg
   Height: 64 Inch
             Total In:
                                                                  1,560 mL
                                                                    122 mL
   PO:
             TF:
                                                                    580 mL
   IVF:
                                                                    590 mL
                                                                     62 mL
   Blood products:
   Total out:
                                                                  2,095 mL
                                                                    260 mL
   Urine:
                                                                  1,995 mL
                                                                    260 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                   -535 mL
                                                                   -138 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 452 (305 - 482) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 16 cmH2O
   SpO2: 95%
   ABG: ///35/
   Ve: 8.3 L/min
   Physical Examination
   General: trached, minimally arousable to verbal stimuli and sternal rub
   Skin: scattered ecchymoses, no rash, left thoracotomy w/ staples, small
   yellow wound at incisional end overlying L-spine w/ scant yellow
   discharge
   HEENT: Sclera anicteric, pupils 2mm and sluggish, MMD, poor dentition
   w/ gingival inflammation, oropharynx clear
   Neck: supple, JVP unable to assess [**2-12**] trach collar, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: Tachy, Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
   gallops
   Abdomen: obese, LLQ ostomy w/ brown liquid stool, mild line incisional
   scar healed, soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly appreciated
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema,
   PICC line in R antecub
   Labs / Radiology
   456 K/uL
   9.1 g/dL
   79 mg/dL
   0.6 mg/dL
   35 mEq/L
   4.2 mEq/L
   18 mg/dL
   106 mEq/L
   148 mEq/L
   28.3 %
   7.4 K/uL
        [image002.jpg]
                             [**2131-6-10**]  02:23 AM
                             [**2131-6-10**]  09:41 AM
                             [**2131-6-11**]  02:21 AM
                             [**2131-6-12**]  03:16 AM
                             [**2131-6-12**]  03:59 AM
                             [**2131-6-12**]  10:00 AM
                             [**2131-6-13**]  02:29 AM
                             [**2131-6-14**]  03:44 AM
                             [**2131-6-15**]  03:49 AM
                             [**2131-6-16**]  12:28 AM
   WBC
   8.8
   8.1
   12.1
   8.9
   9.7
   8.2
   7.4
   Hct
   25.9
   24.2
   25.7
   23.1
   25.4
   26.5
   28.3
   Plt
   [**Telephone/Fax (3) 8017**]59
   500
   533
   456
   Cr
   0.6
   0.6
   0.5
   0.6
   0.6
   0.6
   0.6
   TCO2
   44
   43
   Glucose
   185
   177
   157
   [**Telephone/Fax (3) **]
   281
   79
   Other labs: PT / PTT / INR:14.5/24.7/1.3, CK / CKMB /
   Troponin-T:229/2/0.03, ALT / AST:[**3-21**], Alk Phos / T Bili:176/0.2,
   Differential-Neuts:78.7 %, Lymph:11.6 %, Mono:7.1 %, Eos:2.2 %,
   Fibrinogen:387 mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.7 g/dL, LDH:245
   IU/L, Ca++:10.2 mg/dL, Mg++:1.7 mg/dL, PO4:2.7 mg/dL
   EEG: This is an abnormal portable EEG recording due to the slow and
   disorganized pattern and the bursts of generalized slowing. This
   abnormality suggests a widespread encephalopathy. Medications,
   metabolic disturbances, and infection are among the most common causes.
   Of note is that although the right leg twitching had no EEG correlate
   it does not completely exclude the possibility of the patient having
   focal motor seizures. There are no epileptiform features seen in this
   recording and no lateralized features. Note is made of a tachycardia
   with a single ectopic beat
   CT sinus: pansinus mucosal thickening most prominent in right maxillary
   sinus which may represent sinusitis but no focal fluid collections
   Assessment and Plan
   50y F w/ COPD, DMII, IgG/IgA deficiency, MRSA epidural abscess s/p
   thoracic spinal fusion POD 35 c/b multiple complications and infections
   requiring re-operation, c. diff colitis, VAP (pseudomonal) and
   persistent hypercarbic respiratory failure transferred from the SICU to
   the MICU for further management.
   .
   # Hypercarbic Respiratory Failure: Pseudomonal VAP vs. COPD vs.
   ventilatory muscle weakness/critical illness myopathy vs. oversedation.
   In discussion with nursing and RT, patient has been difficult to
   liberate from vent [**2-12**] low tidal volumes, especially in setting of
   narcotics. Small b/l pleural effusions not likely to be playing big
   role and unlikely to be corrected until albumin improves.
   - Continue slow ventilatory wean, trial of [**5-15**] when sedation minimized
   - Decrease sedating meds, consider transition to methadone, plan to
   discuss with pain service today
   - Continue slow 5mg q3d steroid taper nebs for COPD (came in on
   prednisone 25mg, currently on prednisone 15mg)
   - Complete 8-day course of cefepime for VAP
   - Consider EMG to r/o myopathy (contact [**Name (NI) **] [**Name (NI) 1621**])
   .
   # Persistent Fevers: possible etiologies include unresolved VAP, fungal
   UTI, persistent abscess in the spine/paraspinal space, pleural
   effusions/atelectasis, drugs, dental abscess. MS [**First Name (Titles) **] [**Last Name (Titles) **] to be
   med-induced although CNS infectious process possible. Has been on
   appropriate rx for VAP and [**Name8 (MD) **] RN/RT minimal secretions.
   - F/u MRI T/L spine, panorex and CT sinus read
   - Holding off on IR-guided LP for now pending above studies per ID recs
   as clinical status would likely be worse if had untreated meningitis
   for so long
   - Continue vanc & rifampin for MRSA abscess; flagyl for C. diff,
   fluconazole for yeast in urine. D/c cefepime as completed 10 days
   (8-day course recommended per ID).
   - Minimize unnecessary meds. Hydralazine discontinued previously.
   Switch famotidine to PPI. Taperering clonidine, steroids, neurontin
   (400mg TID X 1 day = [**6-15**], 200mg TID X 1 day, 100mg TID X 1 day then
   off)
   - Consider removing PICC although surveillance cx NGTD; f/u pending bcx
   - F/u ID recs
   .
   # Yeast+ Ucx: Fluconzaole x 7 days
   .
   #  MRSA epidural abcess s/p thoracic spinal fusion and multiple
   surgical revisions for recurrent infection: Given persistent fevers and
   no clear source with negative blood cultures, urine only showing yeast,
   would benefit from further imaging of spine given persistent drainage
   from wound.
   - IV vanc/rifampin for MRSA osteo until [**7-5**]
   - Obtain repeat CT of spine to assess for abscess
   .
   #  VAP: Cefepime-sensitive Pseudomonas.
   - ID recommended 8-day course; started Cefepime on [**6-5**] so will d/c
   today
   .
   # Sinus Tachycardia: Persistently tachycardic. TSH nl. EKG this AM
   Likely [**2-12**] agitation, anxiety, pain.
   - Continue tele
   - D/c nodal agents and treat underlying cause
   .
   # C.diff colitis: Stool output normal.
   - Continue flagyl until vancomycin course completed
   .
   # DMII: Has been on regular sliding scale w/ TF with moderate control
   in 200s.
   - Titrate RISS prn with down-titration of prednisone
   .
   #  Agitation/Anxiety: Has been on ativan, zyprexa, this admission.
   Evaluated by psych/neuron. EEG suggests widespread encephalopathy c/w
   meds v. metabolic v. infectious although cannot exclude focal motor
   seizures as etiology of extremity tremors/"twitches
   - F/u Neuro and psych recs
   - Taper off clonidine (started for unclear reasons) and gabapentin; off
   ativan.
   - Start trial of low-dose seroquel (held prior to EEG)
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:  RISS
   Lines:
   PICC Line - [**2131-6-2**] 10:00 AM
   22 Gauge - [**2131-6-15**] 07:09 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin, IVC filter
   Stress ulcer: HOB elevation, Mouth care
   VAP:
   Comments:
   Communication:  Comments: HCPs are mother and sister
   [**Name (NI) 36**] status: Full code
   Disposition: ICU, to vent rehab pending above

2131-06-17 06:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - EEG: Widespread encephalopathy. Can not exclude focal motor seizure
   but twitching w/o EEG correlate.
   - CT sinus/face: Pansinus mucosal thickening, most prominent in the
   right maxillary sinus where a combination of mucosal thickening and
   inspissated secretions are observed. The findings may represent
   sinusitis. No focal fluid collections are seen.
   - MRI spine: T6-T9 cage with new fluid around tracking to epidural
   space with at least 50% narrowing of canal with cord compression. Ortho
   spine notified. Not significant cord comp per Dr. [**Last Name (STitle) 2660**]; could
   consider CT-guided aspiration by IR on Mon if concerned. ID also spoke
   to Ortho-Spine re: this.
   - Cefepime discontinued as completed 10 day course for VAP (8-day rec
   by ID)
   - Clonidine tapered over 4 days per Pharm recs. Chronic pain and psych
   to see her tmrw.
   - Pt on PS with PEEP 5. ABG 7.38/66/94. VBG: 7.38/72/39.
   Allergies:
   Aspirin
   Unknown;
   Codeine
   Unknown;
   Erythromycin Base
   Unknown;
   Penicillins
   Unknown;
   Influenza Virus Vaccine
   Unknown;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2131-6-15**] 12:00 PM
   Cefipime - [**2131-6-16**] 07:11 AM
   Vancomycin - [**2131-6-16**] 09:00 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2131-6-17**] 04:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-6-17**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.6
C (99.6
   HR: 96 (78 - 135) bpm
   BP: 123/62(77) {82/25(43) - 147/96(110)} mmHg
   RR: 7 (7 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.3 kg (admission): 71 kg
   Height: 64 Inch
             Total In:
                                                                  2,485 mL
                                                                    588 mL
   PO:
             TF:
                                                                    960 mL
                                                                    401 mL
   IVF:
                                                                    925 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                  1,580 mL
                                                                    430 mL
   Urine:
                                                                  1,580 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    905 mL
                                                                    158 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 486 (402 - 486) mL
   PS : 15 cmH2O
   RR (Set): 0
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 137
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: 7.38/66/94.[**Numeric Identifier 126**]/35/10
   Ve: 8.3 L/min
   PaO2 / FiO2: 188
   Physical Examination
   General: trached, minimally arousable to verbal stimuli and sternal rub
   Skin: scattered ecchymoses, no rash, left thoracotomy w/ staples, small
   yellow wound at incisional end overlying L-spine w/ scant yellow
   discharge
   HEENT: Sclera anicteric, pupils 2mm and sluggish, MMD, poor dentition
   w/ gingival inflammation, oropharynx clear
   Neck: supple, JVP unable to assess [**2-12**] trach collar, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: Tachy, Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
   gallops
   Abdomen: obese, LLQ ostomy w/ brown liquid stool, mild line incisional
   scar healed, soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly appreciated
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema,
   PICC line in R antecub
   Labs / Radiology
   436 K/uL
   7.9 g/dL
   170 mg/dL
   0.7 mg/dL
   35 mEq/L
   3.8 mEq/L
   24 mg/dL
   103 mEq/L
   141 mEq/L
   24.2 %
   8.9 K/uL
        [image002.jpg]
                             [**2131-6-12**]  03:59 AM
                             [**2131-6-12**]  10:00 AM
                             [**2131-6-13**]  02:29 AM
                             [**2131-6-14**]  03:44 AM
                             [**2131-6-15**]  03:49 AM
                             [**2131-6-16**]  12:28 AM
                             [**2131-6-16**]  02:28 PM
                             [**2131-6-16**]  06:49 PM
                             [**2131-6-17**]  12:33 AM
                             [**2131-6-17**]  04:20 AM
   WBC
   8.9
   9.7
   8.2
   7.4
   8.9
   Hct
   23.1
   25.4
   26.5
   28.3
   24.2
   Plt
   459
   500
   533
   456
   436
   Cr
   0.6
   0.6
   0.6
   0.6
   0.7
   0.7
   TCO2
   43
   41
   Glucose
   [**Telephone/Fax (3) 7993**]81
   79
   180
   170
   Other labs: PT / PTT / INR:14.5/26.4/1.3, CK / CKMB /
   Troponin-T:229/2/0.03, ALT / AST:[**3-21**], Alk Phos / T Bili:176/0.2,
   Differential-Neuts:78.7 %, Lymph:11.6 %, Mono:7.1 %, Eos:2.2 %,
   Fibrinogen:387 mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.7 g/dL, LDH:245
   IU/L, Ca++:10.2 mg/dL, Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   MRI T/L-spine: 1. Since the previous MRI of [**2131-5-22**], there is now
   increased fluid seen surrounding the interbody device placed following
   corpectomy with fluid extending into the anterior epidural space on the
   left side, narrowing the spinal canal at T7 and T8 level with
   compression of the spinal cord. 2. Superficial fluid collection in the
   left upper thoracic region and also fluid extending from laminectomy
   site to subcutaneous fat in the upper thoracic region. The fluid
   extending from the laminectomy site to the subcutaneous fat has
   considerably decreased since the previous study. 3. Extensive bilateral
   pleural parenchymal changes in the lungs, which can be further
   evaluated with CT of the chest.
   Assessment and Plan
   50y F w/ COPD, DMII, IgG/IgA deficiency, MRSA epidural abscess s/p
   thoracic spinal fusion POD 35 c/b multiple complications and infections
   requiring re-operation, c. diff colitis, VAP (pseudomonal) and
   persistent hypercarbic respiratory failure transferred from the SICU to
   the MICU for further management.
   .
   # Hypercarbic Respiratory Failure: Pseudomonal VAP vs. COPD vs.
   ventilatory muscle weakness/critical illness myopathy vs. oversedation.
   In discussion with nursing and RT, patient has been difficult to
   liberate from vent [**2-12**] low tidal volumes, especially in setting of
   narcotics. Small b/l pleural effusions not likely to be playing big
   role and unlikely to be corrected until albumin improves.
   - Continue slow ventilatory wean, trial of [**5-15**] when sedation minimized
   - Decrease sedating meds, consider transition to methadone, plan to
   discuss with pain service today
   - Continue slow 5mg q3d steroid taper and nebs for COPD (came in on
   prednisone 25mg, currently on prednisone 15mg)
   - Completed 10-day course of cefepime for VAP
   - Consider EMG to r/o myopathy (contact [**Name (NI) **] [**Name (NI) 1621**])
   .
   # Persistent Fevers: possible etiologies include unresolved VAP, fungal
   UTI, persistent abscess in the spine/paraspinal space, pleural
   effusions/atelectasis, drugs, dental abscess. MS [**First Name (Titles) **] [**Last Name (Titles) **] to be
   med-induced although CNS infectious process possible. Has been on
   appropriate rx for VAP and [**Name8 (MD) **] RN/RT minimal secretions.
   - F/u MRI T/L spine, and CT sinus read
   - Holding off on IR-guided LP for now pending above studies per ID recs
   as clinical status would likely be worse if had untreated meningitis
   for so long
   - Continue vanc & rifampin for MRSA abscess; flagyl for C. diff,
   fluconazole for yeast in urine. D/c cefepime as completed 10 days
   (8-day course recommended per ID).
   - Minimize unnecessary meds. Hydralazine discontinued previously.
   Switch famotidine to PPI. Taperering clonidine, steroids, neurontin
   (400mg TID X 1 day = [**6-15**], 200mg TID X 1 day, 100mg TID X 1 day then
   off)
   - Consider removing PICC although surveillance cx NGTD; f/u pending bcx
   - F/u ID recs
   .
   # Yeast+ Ucx: Fluconzaole x 7 days
   .
   #  MRSA epidural abcess s/p thoracic spinal fusion and multiple
   surgical revisions for recurrent infection: Given persistent fevers and
   no clear source with negative blood cultures, urine only showing yeast
   - IV vanc/rifampin for MRSA osteo until [**7-5**]
   - Obtain repeat CT of spine to assess for abscess
   - f/u repeat MRI spine
   .
   #  VAP: Cefepime-sensitive Pseudomonas.
   - ID recommended 8-day course; started Cefepime on [**6-5**] so will d/c
   today
   .
   # Sinus Tachycardia: Persistently tachycardic. TSH nl. EKG this AM
   Likely [**2-12**] agitation, anxiety, pain.
   - Continue tele
   - D/c nodal agents and treat underlying cause
   .
   # C.diff colitis: Stool output normal.
   - Continue flagyl until vancomycin course completed
   .
   # DMII: Has been on regular sliding scale w/ TF with moderate control
   in 200s.
   - Titrate RISS prn with down-titration of prednisone
   .
   #  Agitation/Anxiety: Has been on ativan, zyprexa, this admission.
   Evaluated by psych/neuron. EEG suggests widespread encephalopathy c/w
   meds v. metabolic v. infectious although cannot exclude focal motor
   seizures as etiology of extremity tremors/"twitches
   - F/u psych recs
   - Taper off clonidine (started for unclear reasons) and gabapentin; off
   ativan.
   - Start trial of low-dose seroquel or Haldol (held prior to EEG). Will
   d/w psych.
   ICU Care
   Nutrition:
   Impact with Fiber (Full) - [**2131-6-16**] 08:00 AM 60 mL/hour
   Glycemic Control:  RISS
   Lines:
   PICC Line - [**2131-6-2**] 10:00 AM
   22 Gauge - [**2131-6-15**] 07:09 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin, IVC filter
   Stress ulcer: PPI
   VAP:  HOB elevation, Mouth care
   Comments:
   Communication:  Comments: HCPs are mother and sister
   [**Name (NI) 36**] status: Full code
   Disposition: ICU, to vent rehab pending above

2131-06-17 11:12:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   MRI Spine--new compression noted and fluid collection noted with
   extension to epi-dural space--Ortho consulted and ID has continued
   discussion with Dr. [**Last Name (STitle) 2660**] and planning for sampling and intervention
   being considered.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Aspirin
   Unknown;
   Codeine
   Unknown;
   Erythromycin Base
   Unknown;
   Penicillins
   Unknown;
   Influenza Virus Vaccine
   Unknown;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2131-6-15**] 12:00 PM
   Cefipime - [**2131-6-16**] 07:11 AM
   Vancomycin - [**2131-6-17**] 09:07 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2131-6-17**] 04:39 AM
   Heparin Sodium (Prophylaxis) - [**2131-6-17**] 08:11 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-6-17**] 11:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100
   HR: 133 (78 - 135) bpm
   BP: 138/63(81) {82/25(43) - 143/78(90)} mmHg
   RR: 36 (7 - 36) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 75.3 kg (admission): 71 kg
   Height: 64 Inch
             Total In:
                                                                  2,485 mL
                                                                  1,294 mL
   PO:
             TF:
                                                                    960 mL
                                                                    656 mL
   IVF:
                                                                    925 mL
                                                                    298 mL
   Blood products:
   Total out:
                                                                  1,580 mL
                                                                    660 mL
   Urine:
                                                                  1,580 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    905 mL
                                                                    634 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 486 (402 - 486) mL
   PS : 15 cmH2O
   RR (Set): 0
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 137
   PIP: 21 cmH2O
   SpO2: 98%
   ABG: 7.38/66/94.[**Numeric Identifier 126**]/35/10
   Ve: 8.3 L/min
   PaO2 / FiO2: 188
   Physical Examination
   Head, Ears, Nose, Throat: No(t) Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Minimal drainage from spine incision
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
Pt with mild improvement in alterness and able to interact
   with written means.
   Labs / Radiology
   7.9 g/dL
   436 K/uL
   170 mg/dL
   0.7 mg/dL
   35 mEq/L
   3.8 mEq/L
   24 mg/dL
   103 mEq/L
   141 mEq/L
   24.2 %
   8.9 K/uL
        [image002.jpg]
                             [**2131-6-12**]  03:59 AM
                             [**2131-6-12**]  10:00 AM
                             [**2131-6-13**]  02:29 AM
                             [**2131-6-14**]  03:44 AM
                             [**2131-6-15**]  03:49 AM
                             [**2131-6-16**]  12:28 AM
                             [**2131-6-16**]  02:28 PM
                             [**2131-6-16**]  06:49 PM
                             [**2131-6-17**]  12:33 AM
                             [**2131-6-17**]  04:20 AM
   WBC
   8.9
   9.7
   8.2
   7.4
   8.9
   Hct
   23.1
   25.4
   26.5
   28.3
   24.2
   Plt
   459
   500
   533
   456
   436
   Cr
   0.6
   0.6
   0.6
   0.6
   0.7
   0.7
   TCO2
   43
   41
   Glucose
   [**Telephone/Fax (3) 7993**]81
   79
   180
   170
   Other labs: PT / PTT / INR:14.5/26.4/1.3, CK / CKMB /
   Troponin-T:229/2/0.03, ALT / AST:[**3-21**], Alk Phos / T Bili:176/0.2,
   Differential-Neuts:78.7 %, Lymph:11.6 %, Mono:7.1 %, Eos:2.2 %,
   Fibrinogen:387 mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.7 g/dL, LDH:245
   IU/L, Ca++:10.2 mg/dL, Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   50 yo female admitted initially with epidural abscess and now with
   prolonged hosptial course complicated by persistent respiratory
   (hypercarbic) failure and now able to tolerate intermittent trach
   collars through today.  Of concern in the setting of intermittent
   fevers has been findings of significant fluid in epidural space and
   qestion of cord compromise.  In the setting of these fevers she has had
   relative stability of WBC and hemodynamics.
   1)Respiratory Failure-patient able to be able to be weaned to trach
   mask this morning in the setting of treatment for VAP, obstructive lung
   disease.
   -PSV support overnight and intermittently throughout the day.
   -Continue with suctioning
   -Atrovent
   -Prednisone 50mg and will continue to wean
   2)Sepsis-Now with continued fevers noted.  Dental abscess raised as
   possible concern, has epi-dural region collection and will move to
   sample.  Treatment continuing for known sources
   -Vanco/Rifampin
MRSA abscess
   -Flagyl-C. Diff
   -Fluconazole.
   -Follow up blood cultures
   -Will need ID input to continue to prioritize potentially infected
   targets and consideration of sampling and would consider sampling of
   epidural source given persistent drainage and fevers.
   3)Tachycardia-
   -Control anxiety and pain
   -Move to Fentanyl patch dose increase
   -Anxiety to be contolled with careful use of pharmacologic agents
   -Psych to evaluate today for further aid
   ICU Care
   Nutrition:
   Impact with Fiber (Full) - [**2131-6-17**] 07:58 AM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2131-6-2**] 10:00 AM
   22 Gauge - [**2131-6-15**] 07:09 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2131-06-18 06:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**6-17**]
   - Continued to wean Clonidine, prednisone, and neurontin
   - Patient tolerated short (3hr) durations off vent on trach mask
   - Fentanyl patch started per Chronic pain recs
   - Ortho and ID rec drainage of paraspinal fluid and superficial
   colletion in L thorax seen on MRI
   - Interventional Neuro-radiology was called and asked to page [**Numeric Identifier 8051**]
   early in AM of [**2131-6-18**] for drainage of fluid.
   Allergies:
   Aspirin
   Unknown;
   Codeine
   Unknown;
   Erythromycin Base
   Unknown;
   Penicillins
   Unknown;
   Influenza Virus Vaccine
   Unknown;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2131-6-15**] 12:00 PM
   Cefipime - [**2131-6-16**] 07:11 AM
   Vancomycin - [**2131-6-17**] 09:07 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2131-6-17**] 09:30 AM
   Heparin Sodium (Prophylaxis) - [**2131-6-18**] 12:48 AM
   Hydromorphone (Dilaudid) - [**2131-6-18**] 06:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-6-18**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.9
C (98.4
   HR: 135 (85 - 142) bpm
   BP: 113/58(72) {89/45(54) - 154/73(88)} mmHg
   RR: 19 (11 - 39) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 75.3 kg (admission): 71 kg
   Height: 64 Inch
             Total In:
                                                                  2,470 mL
                                                                    637 mL
   PO:
             TF:
                                                                  1,440 mL
                                                                    392 mL
   IVF:
                                                                    440 mL
                                                                     65 mL
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                  1,040 mL
   Urine:
                                                                  1,700 mL
                                                                    840 mL
   NG:
   Stool:
   200 mL
   Drains:
   Balance:
                                                                    770 mL
                                                                   -403 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 564 (417 - 564) mL
   PS : 15 cmH2O
   RR (Set): 0
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 89
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ///34/
   Ve: 5.8 L/min
   Physical Examination
   General: Trached, interactive and responds to questions appropriately
   Skin: left thoracotomy w/ staples, small yellow wound at incisional end
   overlying L-spine w/ scant yellow discharge
   HEENT: Sclera aniceteric, poor dentition
   Neck: supple, JVP unable to assess [**2-12**] trach collar
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: Tachy, reg rhythm normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: obese, LLQ ostomy w/ brown liquid stool, mild line incisional
   scar healed, soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema,
   PICC line in R antecub
   Labs / Radiology
   447 K/uL
   8.7 g/dL
   174 mg/dL
   0.7 mg/dL
   34 mEq/L
   4.2 mEq/L
   27 mg/dL
   103 mEq/L
   141 mEq/L
   27.4 %
   8.2 K/uL
        [image002.jpg]
                             [**2131-6-12**]  10:00 AM
                             [**2131-6-13**]  02:29 AM
                             [**2131-6-14**]  03:44 AM
                             [**2131-6-15**]  03:49 AM
                             [**2131-6-16**]  12:28 AM
                             [**2131-6-16**]  02:28 PM
                             [**2131-6-16**]  06:49 PM
                             [**2131-6-17**]  12:33 AM
                             [**2131-6-17**]  04:20 AM
                             [**2131-6-18**]  12:18 AM
   WBC
   8.9
   9.7
   8.2
   7.4
   8.9
   8.2
   Hct
   23.1
   25.4
   26.5
   28.3
   24.2
   27.4
   Plt
   459
   500
   533
   [**Telephone/Fax (3) 8052**]
   Cr
   0.6
   0.6
   0.6
   0.6
   0.7
   0.7
   0.7
   TCO2
   41
   Glucose
   [**Telephone/Fax (3) 7993**]81
   79
   180
   170
   174
   Other labs: PT / PTT / INR:14.9/27.2/1.3, CK / CKMB /
   Troponin-T:229/2/0.03, ALT / AST:[**3-21**], Alk Phos / T Bili:176/0.2,
   Differential-Neuts:78.7 %, Lymph:11.6 %, Mono:7.1 %, Eos:2.2 %,
   Fibrinogen:387 mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.7 g/dL, LDH:245
   IU/L, Ca++:10.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 ADLS (ACTIVITIES OF DAILY LIVING), INABILITY TO PERFORM
 BALANCE, IMPAIRED
 BATHING / SHOWERING, INABILITY TO PERFORM
 COMMUNICATE FUNCTIONALLY, INABILITY TO
 DRESS SELF, INABILITY TO
 EAT, DRINK, OR SWALLOW SAFELY, INABILITY TO
 GROOMING TASKS, INABILITY TO PERFORM
 HOME MANAGEMENT TASKS, INABILITY TO PERFORM
 IADLS (INSTRUMENTAL ACTIVITIES OF DAILY LIVING), INABILITY TO PERFORM
 MUSCLE PERFORMACE, IMPAIRED
 ORAL HYGIENE TASKS, INABILITY TO PERFORM
 TRANSFERS, IMPAIRED
 HYPOGLYCEMIA
 ANXIETY
 IMPAIRED SKIN INTEGRITY
 .H/O DIABETES MELLITUS (DM), TYPE II
 ACTIVITY INTOLERANCE
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   50y F w/ COPD, DMII, IgG/IgA deficiency, MRSA epidural abscess s/p
   thoracic spinal fusion POD 35 c/b multiple complications and infections
   requiring re-operation, c. diff colitis, pseudomonal VAP and persistent
   hypercarbic respiratory failure transferred from the SICU to the MICU
   for further management.
   .
   # Hypercarbic Respiratory Failure: patient weaned off vent and
   tolerated short periods on trach mask
   - 3-hour trach mask trial [**Hospital1 **], increase as tolerated
   - Screened for vent mask
   - Decrease sedating meds, increased her fentanyl patch per chronic pain
   recs.
   - Continue slow 5mg q3d steroid taper and nebs for COPD
   - Completed 10-day course of cefepime for VAP
   .
   # Persistent Fevers: Possible etiologies include persistent epidural
   abscess given recent MRI spine. Less likely [**2-12**] fungal UTI or treated
   VAP, fungal UTI, pleural effusions/atelectasis. Unable to obtain
   panorex [**2-12**] cooperation but no fluid collections seen on CT face. Drug
   fever possibility.
   - F/u CT [**Doctor First Name 213**] recs with plan for IR-guided abscess drainage today
   - F/u ID recs
   - Continue vanc & rifampin for MRSA abscess; flagyl for C. diff,
   fluconazole for yeast in urine. Completed 10-day cefepime course for
   VAP.
   - Minimize unnecessary meds. Hydralazine discontinued previously.
   Switch famotidine to PPI. Tapering clonidine, steroids, neurontin
   - Consider removing PICC although surveillance cx NGTD; f/u pending bcx
   .
   #  MRSA epidural abcess s/p thoracic spinal fusion and multiple
   surgical revisions for recurrent infection: Increased fluid collection
   suggestive of new infection/abscess which may explain fevers and would
   alter current tx plan
   - f/u Ortho spine and ID recs
   - IV vanc/rifampin for MRSA osteo until [**7-5**] for now
   .
   # C.diff colitis: Stool output normal.
   - Continue flagyl until vancomycin course completed
   .
   # Yeast+ Ucx: Fluconzaole x 7 days
   .
   #  VAP: Cefepime-sensitive Pseudomonas.
   - Completed 10-day course
   .
   # Sinus Tachycardia: Persistently tachycardic likely due to agitation
   and pain. TSH nl.
   - Continue tele
   - D/c nodal agents and treat underlying cause
   - Will f/u Chronic Pain and Psych recs
   .
   #  Agitation/Anxiety: Has been on ativan, zyprexa, this admission.
   Evaluated by psych/neuro. EEG suggests widespread encephalopathy c/w
   meds v. metabolic v. infectious although cannot exclude focal motor
   seizures as etiology of extremity tremors/"twitches
   - F/u psych recs; question of whether low-dose Haldol may help although
   seems less agitated today
   - Taper off clonidine (started for unclear reasons) and gabapentin; off
   ativan.
   .
   # DMII: Has been on regular sliding scale w/ TF with moderate control
   in 200s.
   - Titrate RISS prn with down-titration of prednisone
   ICU Care
   Nutrition:
   Impact with Fiber (Full) - [**2131-6-17**] 07:58 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2131-6-2**] 10:00 AM
   22 Gauge - [**2131-6-15**] 07:09 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2131-06-19 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2131-6-19**] 06:08 AM
   [**6-18**]
   - CT T,L-spine per surgery recs to evaluate for positioning of fluid
   collections
   - PT consulted
   - Per neuroradiology, will go for drainage on [**2131-5-19**]
   Allergies:
   Aspirin
   Unknown;
   Codeine
   Unknown;
   Erythromycin Base
   Unknown;
   Penicillins
   Unknown;
   Influenza Virus Vaccine
   Unknown;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2131-6-18**] 08:01 AM
   Metronidazole - [**2131-6-19**] 03:36 AM
   Rifampin - [**2131-6-19**] 03:36 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2131-6-18**] 08:09 PM
   Heparin Sodium (Prophylaxis) - [**2131-6-19**] 12:00 AM
   Hydromorphone (Dilaudid) - [**2131-6-19**] 05:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-6-19**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.3
C (99.2
   HR: 136 (92 - 144) bpm
   BP: 138/58(76) {104/56(69) - 158/78(93)} mmHg
   RR: 12 (11 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 75.3 kg (admission): 71 kg
   Height: 64 Inch
             Total In:
                                                                  1,850 mL
                                                                    132 mL
   PO:
             TF:
                                                                    950 mL
   IVF:
                                                                    450 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  2,570 mL
                                                                    675 mL
   Urine:
                                                                  2,170 mL
                                                                    600 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                   -720 mL
                                                                   -543 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 425 (423 - 663) mL
   PS : 15 cmH2O
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 48
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ///38/
   Ve: 3.4 L/min
   Physical Examination
   General: Trached, interactive and responds to questions appropriately
   Skin: left thoracotomy w/ staples, small yellow wound at incisional end
   overlying L-spine w/ scant yellow discharge
   HEENT: Sclera aniceteric, poor dentition
   Lungs: CTAB anteriorly
   CV: Tachy, reg rhythm normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: obese, LLQ ostomy w/ brown liquid stool, non-tender
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema,
   PICC line in R antecub
   Labs / Radiology
   462 K/uL
   7.8 g/dL
   101 mg/dL
   0.7 mg/dL
   38 mEq/L
   4.1 mEq/L
   26 mg/dL
   101 mEq/L
   141 mEq/L
   24.6 %
   8.6 K/uL
        [image002.jpg]
                             [**2131-6-13**]  02:29 AM
                             [**2131-6-14**]  03:44 AM
                             [**2131-6-15**]  03:49 AM
                             [**2131-6-16**]  12:28 AM
                             [**2131-6-16**]  02:28 PM
                             [**2131-6-16**]  06:49 PM
                             [**2131-6-17**]  12:33 AM
                             [**2131-6-17**]  04:20 AM
                             [**2131-6-18**]  12:18 AM
                             [**2131-6-19**]  02:14 AM
   WBC
   8.9
   9.7
   8.2
   7.4
   8.9
   8.2
   8.6
   Hct
   23.1
   25.4
   26.5
   28.3
   24.2
   27.4
   24.6
   Plt
   459
   500
   533
   [**Telephone/Fax (3) 8052**]
   462
   Cr
   0.6
   0.6
   0.6
   0.6
   0.7
   0.7
   0.7
   0.7
   TCO2
   41
   Glucose
   427
   134
   281
   79
   180
   170
   174
   101
   Other labs: PT / PTT / INR:14.4/31.3/1.3, CK / CKMB /
   Troponin-T:229/2/0.03, ALT / AST:[**3-21**], Alk Phos / T Bili:176/0.2,
   Differential-Neuts:78.7 %, Lymph:11.6 %, Mono:7.1 %, Eos:2.2 %,
   Fibrinogen:387 mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.7 g/dL, LDH:245
   IU/L, Ca++:10.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 ADLS (ACTIVITIES OF DAILY LIVING), INABILITY TO PERFORM
 BALANCE, IMPAIRED
 BATHING / SHOWERING, INABILITY TO PERFORM
 COMMUNICATE FUNCTIONALLY, INABILITY TO
 DRESS SELF, INABILITY TO
 EAT, DRINK, OR SWALLOW SAFELY, INABILITY TO
 GROOMING TASKS, INABILITY TO PERFORM
 HOME MANAGEMENT TASKS, INABILITY TO PERFORM
 IADLS (INSTRUMENTAL ACTIVITIES OF DAILY LIVING), INABILITY TO PERFORM
 MUSCLE PERFORMACE, IMPAIRED
 ORAL HYGIENE TASKS, INABILITY TO PERFORM
 TRANSFERS, IMPAIRED
 ANXIETY
 IMPAIRED SKIN INTEGRITY
 .H/O DIABETES MELLITUS (DM), TYPE II
 ACTIVITY INTOLERANCE
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   50y F w/ COPD, DMII, IgG/IgA deficiency, MRSA epidural abscess s/p
   thoracic spinal fusion POD 35 c/b multiple complications and infections
   requiring re-operation, c. diff colitis, pseudomonal VAP and persistent
   hypercarbic respiratory failure transferred from the SICU to the MICU
   for further management.
   .
   # Persistent Fevers: Afebrile yesterday. Possible etiologies include
   persistent epidural abscess given recent MRI spine. Less likely [**2-12**]
   fungal UTI or treated VAP, fungal UTI, pleural effusions/atelectasis.
   Unable to obtain panorex [**2-12**] cooperation but no fluid collections seen
   on CT face. Drug fever possibility.
   - F/u CT [**Doctor First Name 213**] recs with plan for IR-guided abscess drainage
   - CT thorax w/wo contrast to better visualize fluid collections.
   - Dr. [**Last Name (STitle) 7634**] with debride wounds bedside.
   - F/u ID recs
   - Continue vanc & rifampin for MRSA abscess; flagyl for C. diff,
   fluconazole for yeast in urine. Completed 10-day cefepime course for
   VAP.
   - Minimize unnecessary meds. Hydralazine discontinued previously.
   Switch famotidine to PPI. Tapering clonidine, steroids, neurontin
   - Consider removing PICC although surveillance cx NGTD; f/u pending bcx
   .
   # Hypercarbic Respiratory Failure: patient weaned off vent and
   tolerated short periods on trach mask
   - 3 or 4-hour trach mask trial [**Hospital1 **], increase as tolerated
   - Decrease sedating meds, increased her fentanyl patch per chronic pain
   recs.
   - Continue slow 5mg q3d steroid taper and nebs for COPD
   - Completed 10-day course of cefepime for VAP
   .
   #  MRSA epidural abcess s/p thoracic spinal fusion and multiple
   surgical revisions for recurrent infection: Increased fluid collection
   suggestive of new infection/abscess which may explain fevers and would
   alter current tx plan
   - f/u Ortho spine and ID recs
   - IV vanc/rifampin for MRSA osteo until [**7-5**] for now
   .
   # C.diff colitis: Stool output normal.
   - Continue flagyl until vancomycin course completed
   .
   # Yeast+ Ucx: Fluconzaole x 7 days
   .
   #  VAP: Cefepime-sensitive Pseudomonas.
   - Completed 10-day course
   .
   # Sinus Tachycardia: Persistently tachycardic likely due to agitation
   and pain. TSH nl.
   - Continue tele
   - D/c nodal agents and treat underlying cause
   - Will f/u Chronic Pain and Psych recs
   .
   #  Agitation/Anxiety: Has been on ativan, zyprexa, this admission.
   Evaluated by psych/neuro. EEG suggests widespread encephalopathy c/w
   meds v. metabolic v. infectious although cannot exclude focal motor
   seizures as etiology of extremity tremors/"twitches
   - F/u psych recs; question of whether low-dose Haldol may help although
   seems less agitated today
   - Taper off clonidine (started for unclear reasons) and gabapentin;
   ativan prn per psyche.
   .
   # DMII: Has been on regular sliding scale w/ TF with moderate control.
   - Titrate RISS prn with down-titration of prednisone
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2131-6-2**] 10:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2131-06-20 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Unable to do IR-guided spine tap [**2-12**] sedation issues and very small
   fluid loculations which may be more post-surgical changes; could
   consider CT-guided tap under anesthesia but decision not to pursue as
   low-yield.
   - Pt not given trial off vent to trach mask given sedation in setting
   of IR-guided spine tap.
   - Lasix 10mg IV given to optimize pulmonary function with net neg 1.3 L
   over 24 hours.
   - Fentanyl TP increased to 50mg q72h
   Allergies:
   Aspirin
   Unknown;
   Codeine
   Unknown;
   Erythromycin Base
   Unknown;
   Penicillins
   Unknown;
   Influenza Virus Vaccine
   Unknown;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Rifampin - [**2131-6-19**] 03:36 AM
   Vancomycin - [**2131-6-19**] 08:12 AM
   Metronidazole - [**2131-6-19**] 12:30 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2131-6-19**] 08:07 AM
   Fentanyl - [**2131-6-19**] 11:15 AM
   Midazolam (Versed) - [**2131-6-19**] 11:25 AM
   Furosemide (Lasix) - [**2131-6-19**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2131-6-20**] 12:00 AM
   Hydromorphone (Dilaudid) - [**2131-6-20**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-6-20**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.4
C (97.6
   HR: 135 (101 - 148) bpm
   BP: 117/53(69) {101/48(60) - 160/79(94)} mmHg
   RR: 18 (9 - 24) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72.7 kg (admission): 71 kg
   Height: 64 Inch
             Total In:
                                                                  1,026 mL
                                                                    552 mL
   PO:
             TF:
                                                                    291 mL
                                                                    421 mL
   IVF:
                                                                    450 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                  2,370 mL
                                                                    265 mL
   Urine:
                                                                  2,295 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,344 mL
                                                                    287 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 492 (492 - 571) mL
   PS : 15 cmH2O
   RR (Set): 16
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 133
   PIP: 21 cmH2O
   SpO2: 95%
   ABG: ///41/
   Ve: 4.7 L/min
   Physical Examination
   General: Trached, interactive and responds to questions appropriately
   Skin: left thoracotomy w/ staples, small yellow wound at incisional end
   overlying L-spine w/ scant yellow discharge
   HEENT: Sclera aniceteric, poor dentition
   Lungs: CTAB anteriorly
   CV: Tachy, reg rhythm normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: obese, LLQ ostomy w/ brown liquid stool, non-tender
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema,
   PICC line in R antecub
   Labs / Radiology
   487 K/uL
   7.7 g/dL
   141 mg/dL
   0.7 mg/dL
   41 mEq/L
   4.1 mEq/L
   22 mg/dL
   101 mEq/L
   145 mEq/L
   23.9 %
   6.9 K/uL
        [image002.jpg]
                             [**2131-6-14**]  03:44 AM
                             [**2131-6-15**]  03:49 AM
                             [**2131-6-16**]  12:28 AM
                             [**2131-6-16**]  02:28 PM
                             [**2131-6-16**]  06:49 PM
                             [**2131-6-17**]  12:33 AM
                             [**2131-6-17**]  04:20 AM
                             [**2131-6-18**]  12:18 AM
                             [**2131-6-19**]  02:14 AM
                             [**2131-6-20**]  02:57 AM
   WBC
   9.7
   8.2
   7.4
   8.9
   8.2
   8.6
   6.9
   Hct
   25.4
   26.5
   28.3
   24.2
   27.4
   24.6
   23.9
   Plt
   [**Telephone/Fax (3) 8096**]36
   447
   462
   487
   Cr
   0.6
   0.6
   0.6
   0.7
   0.7
   0.7
   0.7
   0.7
   TCO2
   41
   Glucose
   134
   281
   79
   180
   170
   174
   101
   141
   Other labs: PT / PTT / INR:14.4/31.3/1.3, CK / CKMB /
   Troponin-T:229/2/0.03, ALT / AST:[**5-19**], Alk Phos / T Bili:160/0.2,
   Differential-Neuts:78.7 %, Lymph:11.6 %, Mono:7.1 %, Eos:2.2 %,
   Fibrinogen:387 mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.7 g/dL, LDH:183
   IU/L, Ca++:11.0 mg/dL, Mg++:1.7 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   50y F w/ COPD, DMII, IgG/IgA deficiency, MRSA epidural abscess s/p
   thoracic spinal fusion POD 35 c/b multiple complications and infections
   requiring re-operation, c. diff colitis, pseudomonal VAP and persistent
   hypercarbic respiratory failure transferred from the SICU to the MICU
   for further management.
   .
   # Persistent Fevers: Afebrile since [**6-14**]. Possible etiologies include
   persistent epidural abscess given recent MRI spine but unable to drain;
   thought to have only small superficial pockets often consistent with
   postsurgical changes per Radiolology. Fever ource less likely fungal
   UTI or treated VAP, fungal UTI, pleural effusions/atelectasis. Unable
   to obtain panorex [**2-12**] cooperation but no fluid collections seen on CT
   face. Drug fever possibility.
   - Patient went IR-guided fluid drainage, but unable to drain any fluid.
   - F/u ID recs
   - Continue vanc & rifampin for MRSA abscess; flagyl for C. diff,
   fluconazole x 7d for yeast in urine. Completed cefepime course for VAP.
   - Minimize unnecessary meds. Hydralazine discontinued previously.
   Switch famotidine to PPI. Tapering clonidine, steroids, neurontin
   - F/u pending bcx; no need to remove PICC given negative cultures
   .
   # Hypercarbic Respiratory Failure: patient has tolerated short periods
   on trach mask
   - Decrease sedating meds, increased her fentanyl patch per chronic pain
   recs.
   - 3 or 4-hour trach mask trials [**Hospital1 **], increase as tolerated
   - Continue slow 5mg q3d steroid taper and nebs for COPD
   - Completed cefepime course for VAP on [**2131-6-16**]
   .
   #  MRSA epidural abcess s/p thoracic spinal fusion and multiple
   surgical revisions for recurrent infection: Increased fluid collection
   concerning for new infection/abscess but unable to drain. Not thought
   by Ortho spine to represent infection.
   - f/u Ortho spine and ID recs
   - IV vanc/rifampin for MRSA osteo until [**7-5**] for now
   .
   # C.diff colitis: Stool output normal.
   - Continue flagyl until vancomycin course completed
   .
   # Yeast+ Ucx: Fluconzaole x 7 days to end on [**2131-6-21**]
   .
   #  VAP: Cefepime-sensitive Pseudomonas.
   - Completed 10-day course on [**2131-6-16**]
   .
   # Sinus Tachycardia: Persistently tachycardic likely due to agitation
   and pain. TSH nl.
   - Continue tele
   - Will f/u Chronic Pain and Psych recs
   .
   #  Agitation/Anxiety: Has been on ativan, zyprexa, this admission.
   Evaluated by psych/neuro. EEG suggests widespread encephalopathy c/w
   meds v. metabolic v. infectious although cannot exclude focal motor
   seizures as etiology of extremity tremors/"twitches
   - F/u psych recs; question of whether low-dose Haldol may help although
   seems less agitated today
   - Taper off clonidine (started for unclear reasons) and gabapentin;
   - continue low dose ativan prn for agitation per psyche.
   .
   # DMII: Has been on regular sliding scale w/ TF with moderate control.
   - Titrate RISS prn with down-titration of prednisone
   ICU Care
   Nutrition:
   Impact with Fiber (Full) - [**2131-6-19**] 04:19 PM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2131-6-2**] 10:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: D/c to vent rehab if bed available